US06414149B1
Step E: (R)-5-[2-(1-Hydroxy-ethyl)-pyrimidin-4-yl]-1-methyl-2-quinoxalin-2-yl-1,2,4,5,6,7-hexahydro-pyrazolo[4,3-c]pyridin-3-one
To a solution of (R)-1-[4-(1-methyl-3-oxo-2-quinoxalin-2-yl-1,2,3,4,6,7-hexahydro-pyrazolo[4,3-c]pyridin-5-yl)-pyrimidin-2-yl]-ethyl butyrate (prepared according to the method of Example 75, Step D, 248 mg, 0.52 mmol) in a 5:2 mixture of methanol/tetrahydrofuran (7 mL) was added potassium carbonate (218 mg, 1.57 mmol). This mixture was stirred at room temperature overnight and evaporated. The residue was diluted with saturated aqueous sodium bicarbonate and extracted with chloroform (3×). The combined organic extracts were dried over sodium sulfate, filtered, evaporated, and purified by flash column chromatography (1.5→3% methanol/chloroform) to give 150 mg (71%) of the title compound as a white solid. mp: 217-219° C. (dec); 1H NMR (CDCl3, 250 MHz) δ9.66 (s, 1H), 8.25 (d, 1H), 8.12 (dd, 1H), 7.99 (m, 1H), 7.68-7.78 (c, 2H), 6.47 (d, 1H), 4.72 (q, 12H), 4.32 (s, 2H), 4.19-4.14 (c, 3H), 3.41 (s, 3H), 2.80 (t, 2H), 1.51 (d, 3H); MS (APCI) 404 (MH+); [α]D +13.4 (c 1.5, CHCl3).

reactant | (R)-1-[4-(1-methyl-3-oxo-2-quinoxalin-2-yl-1,2,3,4,6,7-hexahydro-pyrazolo[4,3-c]pyridin-5-yl)-pyrimidin-2-yl]-ethyl butyrate | C(CCC)(=O)O[C@H](C)C1=NC=CC(=N1)N1CC2=C(CC1)N(N(C2=O)C2=NC1=CC=CC=C1N=C2)C | C25H27N7O3
reactant | potassium carbonate | 1.57 mmol, 218 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol tetrahydrofuran | 7 mL | CO.O1CCCC1
product | (R)-5-[2-(1-Hydroxy-ethyl)-pyrimidin-4-yl]-1-methyl-2-quinoxalin-2-yl-1,2,4,5,6,7-hexahydro-pyrazolo[4,3-c]pyridin-3-one | 150 mg, 71% | O[C@H](C)C1=NC=CC(=N1)N1CC2=C(CC1)N(N(C2=O)C2=NC1=CC=CC=C1N=C2)C | C21H21N7O2
